US04410529
4.0 g (19.7 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone are dissolved in 100 ml of absolute tetrahydrofuran by heating to 60° C., whilst stirring. The solution is allowed to cool to room temperature, 4.0 g (21.8 millimoles) of trans-2-bromocyclopropanecarboxylic acid chloride are added dropwise and the mixture is stirred for 20 hours at room temperature and then for 1 hour under reflux. Thereafter it is concentrated to about 50 ml, water is added and the product is filtered off. It is washed with water and recrystallized from dimethylformamide/water, giving 6.5 g (94% of theory) of trans-6-[p-(2-bromocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone as colorless crystals of melting point 238°-239° C. (with decomposition).

reactant | 6-(p-aminophenyl)-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 19.7 millimoles, 4.0 g | NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C11H13N3O
reactant | trans-2-bromocyclopropanecarboxylic acid chloride | 21.8 millimoles, 4.0 g | Br[C@H]1[C@@H](C1)C(=O)Cl | C4H4BrClO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | trans-6-[p-(2-bromocyclopropylcarbonylamino)-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 6.5 g, 94% | Br[C@H]1[C@@H](C1)C(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C15H16BrN3O2
